US06509328B1
3-[7-(3-Methoxy-phenyl)-4-oxo-4,5-dihydro-3H-benzo [b][1,4]diazepin-2-yl]-benzonitrile
Prepared from {3-[3-(3-cyano-phenyl)-3-oxo-propionylamino]-3′-methoxy-biphenyl-4-yl}-carbamic acid tert.-butyl ester (Example K21) by treatment with TFA in CH2Cl2 according to the general procedure M. Obtained as a light yellow powder (118 mg).

reactant | {3-[3-(3-cyano-phenyl)-3-oxo-propionylamino]-3′-methoxy-biphenyl-4-yl}-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=CC(=CC=C1)OC)NC(CC(=O)C1=CC(=CC=C1)C#N)=O)=O | C28H27N3O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-[7-(3-Methoxy-phenyl)-4-oxo-4,5-dihydro-3H-benzo [b][1,4]diazepin-2-yl]-benzonitrile | 118 mg | COC=1C=C(C=CC1)C1=CC2=C(N=C(CC(N2)=O)C=2C=C(C#N)C=CC2)C=C1 | C23H17N3O2
